US07691892B2
4-(4-Cyclopropyl-5-methylsulfanyl-4H-[1,2,4]triazol-3-yl)-pyridine
A solution of iodomethane (0.457 mL, 7.33 mmol) in ethanol (3 mL) was added to a solution of 4-cyclopropyl-5-pyridin-4-yl-4H-[1,2,4]triazole-3-thiol (1 g, 4.58 mmol) in 1M sodium hydroxide (10 mL) at room temperature. After stirring overnight, the reaction mixture was extracted with dichloromethane and then the organic layer was washed with brine, dried over anhydrous sodium sulfate, filtered and concentrated to afford the titled compound (729.1 mg, 69%, beige solid). 1H NMR (CDCl3) δ (ppm): 8.77 (d, 2H), 7.75 (m 2H), 3.23 (m, 1H), 2.82 (s, 3H), 1.17 (m, 2H), 0.80 (m, 2H).

reactant | iodomethane | 7.33 mmol, 0.457 mL | IC | CH3I
reactant | 4-cyclopropyl-5-pyridin-4-yl-4H-[1,2,4]triazole-3-thiol | 4.58 mmol, 1 g | C1(CC1)N1C(=NN=C1C1=CC=NC=C1)S | C10H10N4S
solvent | ethanol | 3 mL | C(C)O | C2H6O
solvent | sodium hydroxide | 1M, 10 mL | [OH-].[Na+]
product | 4-(4-Cyclopropyl-5-methylsulfanyl-4H-[1,2,4]triazol-3-yl)-pyridine | 729.1 mg, 69% | C1(CC1)N1C(=NN=C1SC)C1=CC=NC=C1 | C11H12N4S
